US07888366B2
Sodium borohydride (111 mg, 2.9 mmol) was added in portions to a solution of 1-(4-chlorophenyl)-2-methoxy-ethanone (1 g, 6.4 mmol) in methanol at room temperature. After 1 hour, reaction was quenched with 3 mls (aq) sat. NH4Cl. Water was added to dissolve the inorganic and mixture was extracted with ethyl acetate 3×5 ml. Combined organics were washed with brine (2×3 ml) and dried over MgSO4. Crude material was obtained upon filtration and concentration to an amber oil which was purified by flash silica gel and eluted with 10-17% EA/Hex gradient. 1-(4-chlorophenyl)-2-methoxy-ethan-1-ol was obtained as an amber oil (370 mg, 68% yield).

reactant | Sodium borohydride | 2.9 mmol, 111 mg | [BH4-].[Na+]
reactant | 1-(4-chlorophenyl)-2-methoxy-ethanone | 6.4 mmol, 1 g | ClC1=CC=C(C=C1)C(COC)=O | C9H9ClO2
solvent | methanol | CO | CH4O
product | 1-(4-chlorophenyl)-2-methoxy-ethan-1-ol | ClC1=CC=C(C=C1)C(COC)O | C9H11ClO2
